Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
brimonidine
 
Attending: ___
 
Chief Complaint:
Dyspnea, Hypoxia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o F with Hodgkins Lymphoma presents with fever and cough. 
Note that she was recently admitted ___ also for fever 
and cough, with CXR on admission showing nonspecific patchy 
opacities in both upper lobes and this was felt to be 
infectious; she was given vanc and cefepime and follow up XR 
___ showed
resolution of these areas. She was neutropenic with low grade 
temps. Urine legionella and S. pneumo Ag tests negative. 
Cultures negative also. Antibiotics were stopped on ___ 
and her symptoms were of presumed viral etiology. She remained 
afebrile and was discharged home. 

To summarize her relevant onc and past medical history: Her onc 
history is significant for diagnosis in ___ after she was 
found to have anterior chest wall mass and path ___ from 
cervical mediastinopscopy showed classical hodgkin's disease, 
nodular sclerosing type. Course has been c/b an abscess
at the cervical mediastinoscopy wound which was incised/drained 
___ (cultures negative, inpatient stay with abx coverage) 
and ___- Port-a-Cath placed for chemotherapy, with ___ C1D1 
ABVD. She has been intermittently on keflex. Of note, she had 
recently finished nafcillin ___ for MSSA bacteremia 
related to an infected Port-A-Cath being used for chemotherapy, 
which was removed on ___. Most recent chemo was C4D1 of ABVD 
which finished ___. Her ANC fell below  500 on ___.  
She received Neupogen 300mcg X 3 on 
___ and ___ with recovery of her 
counts on ___.
She states that she was febrile yesterday to 101 and has been 
coughing more since getting home from the hospital. She endorses 
one episode of diarrhea today and an episode of nausea and 
vomiting. She denies chest pain. 

In the ED, initial vitals were:103 100 89/68 28 100% 15L. RA O2 
sat 78%, was placed on NRB and then transitioned to ___. Labs 
notable for WBC 20.4 with 44%N 14%B 1%blasts, INR 1.8, lactate 
1.6. CXR concerning for atypical PNA. CTA chest showed bilateral 
upper lobe pneumonia suggestive of atypical infection. Patient
received vancomycin and cefepime and and was admitted to ___ 
for further management.  

At the time of this interview she has a mild cough but she is 
comfortable and eating while lying in bed.

REVIEW OF SYSTEMS:
GENERAL: No night sweats, recent weight changes.
HEENT: No sores in the mouth, painful swallowing, intolerance to
liquids or solids, sinus tenderness, rhinorrhea, or congestion.
CARDS: No chest pain, chest pressure, exertional symptoms, or
palpitations.
PULM: No hemoptysis, or wheezing.
GI: No constipation or abdominal pain. No hematochezia, or
melena.
GU: No dysuria or change in bladder habits.
MSK: No arthritis, arthralgias, myalgias, or bone pain.
DERM: Denies rashes, itching, or skin breakdown.
NEURO: No headache, visual changes, numbness/tingling,
paresthesias, or focal neurologic symptoms.
PSYCH: No feelings of depression or anxiety. All other review of
systems negative.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
___- Initially presented to PCP ___ 5x5 cm non-mobile firm  
mass above R breast  
___- CXR shows focal soft tissue prominence overlying  
anterior chest wall  
___- MRI shows multiple anterior superior mediastinal masses 
with R paratracheal LAD  
___- CT imaging showed R anterior chest wall mass displacing 
the pec major with multiple small masses in ant mediastinum. No 
pulm parenchymal or abd/pelvic/bony abnormalities seen.  
___- Initial med onc consult  
___- Cervical mediastinopscopy at BI was done. Pathology  
showed classical hodgkin's disease, nodular sclerosing type.  
Flow was negative.  
___- PET/CT showed bulky mediastinal adenopathy compatible 

with biopsy proven lymphoma. Plan for ABVD x 6.  
___- Incision/drainage of cervical mediastinoscopy wound  
and drainage of abscess - all cx neg, inpt stay with abx  
coverage, port placement ___, all @ BI.  
___- Port-a-Cath placed for chemotherapy  
___- C1D1 ABVD, completed Keflex. No neopogen. Tolerated  
fairly well with no n/v [used only ativan], but BS up [decadron 
12 mg as part of antiemetic]  
___- Seen by thoracic surgery @ BI- mediastinoscopy and  
port sutures removed, not restarted on abx, plan f/u prn  
___- New nodule on R chest, ANC = 100, afebrile. started  
on keflex ___ q6  
___- C1D15 ABVD. Skin improved anc 2200, started neupogen  

3 doses/cycle  
___- C2D1 ABVD  
C4 ABVD ___ (per pt, not under heme/onc flow sheet)

PAST MEDICAL HISTORY:
1. T2DM  
2. HTN  
3. HLD  
4. Morbid obesity  
5. Primary open angle glaucoma  
6. Rosacea blepharoconjunctivitis  
7. Asthma  
8. Allergic Rhinitis
  
PAST SUGICAL HISTORY:  
1. Cervical mediastinoscopy and Aspiration of chest wall mass at 

right breast. ___  
2. Incision and drainage of a cervical mediastinoscopy wound,  
evacuation of deep cervical abscess ___  
3. Indwelling port placement ___  
 
Social History:
___
Family History:
Father - colon cancer, wet macular degeneration  
Mother - lymphoma, T2DM  
 
Physical Exam:
ADMISSION EXAM
==============
VITAL SIGNS: T 98.7, HR 107, RR 20, 95% on 5L (89% on 4L) BP
131/70
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary adenopathy, no thyromegaly
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  diffuse crackles and rhonchi at the bases, with decreased
sounds in the upper lobes, no wheezing
ABD:  BS+, soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis; no inguinal
adenopathy
SKIN:  No rashes, wound over the right chest covered with a
bandage is clean/dry/intact
NEURO: Fully oriented. Cranial nerves II-XII are within normal
limits excluding visual acuity which was not assessed, no
nystagmus; strength is ___ of the proximal and distal upper and
lower extremities; reflexes are 2+ and coordination intact

DISCHARGE EXAM
==============
97.8 112/64 96 18 94% RA
HEENT:  MMM, no OP lesions
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  CTAB
ABD:  BS+, soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis; no inguinal
adenopathy
SKIN:  No rashes, wound over the right chest covered with a
bandage is clean/dry/intact

 
Pertinent Results:
ADMISSION LABS
===============
___ 01:01PM BLOOD WBC-20.4*# RBC-3.30* Hgb-9.3* Hct-29.8* 
MCV-90 MCH-28.2 MCHC-31.2 RDW-18.3* Plt ___
___ 01:01PM BLOOD Neuts-44* Bands-14* Lymphs-15* Monos-7 
Eos-0 Baso-0 Atyps-1* Metas-11* Myelos-6* Promyel-1* Blasts-1* 
NRBC-3*
___ 01:01PM BLOOD Hypochr-3+ Anisocy-2+ Poiklo-OCCASIONAL 
Macrocy-OCCASIONAL Microcy-1+ Polychr-OCCASIONAL 
Schisto-OCCASIONAL
___ 01:01PM BLOOD ___ PTT-27.4 ___
___ 01:01PM BLOOD Glucose-230* UreaN-13 Creat-1.0 Na-133 
K-4.2 Cl-98 HCO3-21* AnGap-18
___ 01:01PM BLOOD ALT-169* AST-542* LD(LDH)-1517* 
AlkPhos-77 TotBili-0.2
___ 01:01PM BLOOD ___
___ 06:23AM BLOOD Calcium-7.8* Phos-2.2* Mg-2.0
___ 01:13PM BLOOD Lactate-1.6

DISCHARGE LABS
==============
___ 06:55AM BLOOD WBC-14.4* RBC-3.09* Hgb-8.7* Hct-28.2* 
MCV-91 MCH-28.2 MCHC-31.0 RDW-18.6* Plt ___
___ 06:55AM BLOOD Glucose-84 UreaN-5* Creat-0.6 Na-140 
K-4.1 Cl-105 HCO3-26 AnGap-13
___ 06:55AM BLOOD ALT-51* AST-24 AlkPhos-63 TotBili-0.3
___ 06:55AM BLOOD Calcium-8.5 Phos-2.7 Mg-2.0
___ 06:23AM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE

MICROBIOLOGY
============
___  SPUTUM:
   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED. 

   Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii).. 

   FUNGAL CULTURE (Preliminary): 
      GRAM STAIN OF THIS SPECIMEN INDICATES CONTAMINATION WITH
      OROPHARYNGEAL SECRETIONS AND INVALIDATES RESULTS. 
      Specimen is only screened for Cryptococcus species. New 
specimen is
      recommended. 

___ SPUTUM
 GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   MULTIPLE ORGANISMS 
CONSISTENT WITH    OROPHARYNGEAL FLORA. 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 
 
___ STOOL C. difficile DNA amplification assay: 
negative

___ Immunology (CMV) CMV Viral Load-negative
___ Blood (CMV AB) CMV IgG ANTIBODY-FINAL; CMV 
IgM ANTIBODY-negative
___ URINE Legionella Urinary Antigen negative
___ URINE URINE CULTURE
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.
___  Blood cx: PENDING 
___  Blood cx: PENDING

STUDIES/IMAGING
==============
___ CXR: 
Subtle increase veil like opacities within the bilateral upper 
lungs. Findings raise concern for an atypical pneumonia

___ CTA CHEST:
1. Diffuse ground-glass opacities seen throughout both lungs 
have progressed since ___ and are suggestive of 
atypical infection or could also represent pulmonary edema.
2. No evidence of pulmonary embolism to the subsegmental level.

___ ABD ULTRASOUND:
1.  Normal liver echotexture. No concerning hepatic mass. No 
intrahepatic bile duct dilation.
2.  Normal waveforms and flow directions of the portal veins, 
hepatic veins, and hepatic arteries.

___ Cardiovascular ECHO 
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>55%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. The estimated 
cardiac index is normal (>=2.5L/min/m2). Doppler parameters are 
indeterminate for left ventricular diastolic function. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. There is trivial mitral regurgitation. 
The pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 

IMPRESSION: Suboptimal image quality. Normal global 
biventricular systolic function. Technically suboptimal to 
exclude focal wall motion abnormality. Diastolic parameters 
indeterminate to asses diastolic function. No pathologic 
valvular abnormalities.

 
Brief Hospital Course:
___ y/o F with Hodgkins lymphoma (most recent chemo ___ and 
recent admission for PNA presents with recurrent hypoxia and 
cough and CT chest c/f atypical infectious process vs. 
congestive heart failure.

# Healthcare associated PNA: Patient initially presented with 
sepsis (tachycardia, elevated bands, fever) though hemodynamics 
much improved s/p IVF and antibiotics in the ED. She required 5L 
NC on arrival to floor. CTA negative for PE, but showed diffuse 
pulm opacities concerning for pulm edema vs PNA. Given immune 
suppressed state and CT appearance, there was concern for PCP 
___. Pulm was consulted and recommended bronchoscopy, but 
patient declined. She was treated with vanc/cefepime/azithro and 
defervesced. Urine legionella neg.  B-glucan returned positive 
on ___, aspergillus gal-antigen negative, CMV viral load neg, 
neg sputum for PCP. She was transitioned to levofloxacin for 
planned 14 day course.

# Pulmonary edema: Pt with dyspnea and hypoxia on admission as 
above. Imaging was concerning for diffuse pulmonary edema. 
Elevated JVP on exam and proBNP >13k. Respiratory status rapidly 
improved with IV lasix bolus and she was weaned off of oxygen. 
TTE this admission showed normal EF but could not rule out 
diastolic dysfunction. Decompensated CHF likely in the setting 
of sepsis, fluid resuscitation.

# Transaminitis - Patient has elevated AST/ALT, new since 
discharge on ___. Negative HAV Ab and HCV Ab documented in 
___. RUQ ultrasound did not show any liver lesions, ductal 
dilitation, or hepatic vein thrombosis. Hep B SAg and SAb neg.
Likely hepatic congestion from CHF given improvement with 
diuresis. 

# Diarrhea - Patient reports having diarrhea for two days. 
Describes it as nonbloody watery stool. Recent exposure to 
health care system and recent abx use, concern for Cdiff. Urine 
legionella negative and C.diff neg on ___. 

# H/o wound infection: Wound nurse was consulted for right chest 
wall wound. Pt will have continued wound care with ___. 

# DM2: Held glyburide while inpatient in favor of sliding scale. 
Continued home lantus 15 qhs.

#HTN - Continued to hold atenolol and lisinopril since last 
admission

#GLAUCOMA - continued travoprost home eye drops 

#ASTHMA - continued home albuterol

#STAGE IIa HODGKIN'S LYMPHOMA - per pt last chemo was ___ 
(though this is not clearly noted in heme/onc spreadsheet). Her 
ANC fell below 500 on ___.  She received Neupogen 300mcg 
X 3 on ___ and ___ with recovery of 
her counts on ___. Per Dr. ___ skip a cycle 
of chemo. Patient has f/u scheduled for ___.

# Vaginal itching - pt was using monostat gel as outpatient, 
likely developed this after getting antibiotics during recent 
admission. Treated with  topical miconazole (last day ___

TRANSITIONAL ISSUES:
--------------------
-Pulmonary edema on admission suggests diastolic dysfunction
-Right chest wall ulcer followed by wound care RN this 
admission; wound care to continue with ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH Q4H:PRN sob 
2. Simvastatin 20 mg PO DAILY 
3. travoprost 0.004 % ophthalmic qAM 
4. Lorazepam 0.5 mg PO Q8H:PRN anxiety/insomnia 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
6. Fluticasone Propionate 110mcg 4 PUFF IH BID 
7. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
8. Glargine 15 Units Bedtime
9. GlyBURIDE 10 mg PO BID 

 
Discharge Medications:
1. travoprost 0.004 % ophthalmic qAM 
2. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
3. Lorazepam 0.5 mg PO Q8H:PRN anxiety/insomnia 
4. Albuterol Inhaler 1 PUFF IH Q4H:PRN sob 
5. Fluticasone Propionate 110mcg 4 PUFF IH BID 
6. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
7. Glargine 15 Units Bedtime
8. Levofloxacin 750 mg PO DAILY Duration: 9 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth Daily Disp #*9 
Tablet Refills:*0
9. GlyBURIDE 10 mg PO BID 
10. Simvastatin 20 mg PO DAILY 
11. Normlgel (sodium chloride) 0.9 % topical Daily wound 
dressing changes 
RX *sodium chloride [Normlgel] 0.9 % Small amount Daily 
Refills:*0
12. Wound Wash Saline (sodium chloride) 0.9 % topical Daily 
RX *sodium chloride [Saljet Saline Rinse] 0.9 % Moderate amount 
Daily Disp #*1 Vial Refills:*0
13. gauze bandage 4 X 4  topical Daily 
RX *gauze bandage [Curity Gauze] 4" X 4" Apply to chest wall 
ulcer Daily Disp #*30 Each Refills:*0
14. No-Sting Skin-Prep (swab) 1 each miscellaneous Daily 
RX *swab [No-Sting Skin-Prep]  Use as directed Daily Disp #*30 
Swab Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
# Atypical pneumonia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you during your hospitalization 
at ___. You presented with 
fever and shortness of breath, requiring supplemental oxygen. 
You received a chest X-ray, which showed a possible pneumonia. 
You also received a CT scan of your chest, which ruled out a 
blood clot in your lungs.

We started you on antibiotics while you were in the hospital and 
gave you Lasix to take fluid out of your lungs. We also did an 
echocardiogram, which showed that your heart was squeezing well. 
The pulmonologists also saw you while you were in the hospital. 

Your breathing improved and you no longer needed any 
supplemental oxygen. We have discontinued the intravenous 
antibiotics and switched you to an oral antibiotic 
(levofloxacin), which you can take by mouth for an additional 9 
days. You will follow up with Dr. ___ on ___.

Best,

Your ___ Care Team
 
Followup Instructions:
___